US07119102B2
Trifluoro-methanesulfonic acid 6-carbamoylmethylsulfanyl-5-cyano-4-cyclopropyl-pyridin-2-yl ester
2-(3-Cyano-4-cyclopropyl-6-oxo-1,6-dihydro-pyridin-2-ylsulfanyl)-acetamide (13.22 g, 53.03 mmol) and N-phenyltrifluoromethanesulfonimide (20.00 g, 55.42 mmol) was suspended/dissolved in 100 mL of dichloromethane. Diisopropylethylamine (10.00 mL, 56.83 mmol) was added. This mixture was stirred at room temperature for 4 h. The title compound was collected by filtration and washed with dichloromethane. Yield: 17.80 g 88%. (ES+ 382 m/z (MH+).

reactant | 2-(3-Cyano-4-cyclopropyl-6-oxo-1,6-dihydro-pyridin-2-ylsulfanyl)-acetamide | 53.03 mmol, 13.22 g | C(#N)C1=C(NC(C=C1C1CC1)=O)SCC(=O)N | C11H11N3O2S
reactant | N-phenyltrifluoromethanesulfonimide | 55.42 mmol, 20.00 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | Diisopropylethylamine | 56.83 mmol, 10.00 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Trifluoro-methanesulfonic acid 6-carbamoylmethylsulfanyl-5-cyano-4-cyclopropyl-pyridin-2-yl ester | C(N)(=O)CSC1=C(C(=CC(=N1)OS(=O)(=O)C(F)(F)F)C1CC1)C#N | C12H10F3N3O4S2
